US07932398B2
Air in a 20 ml Schlenk tube was replaced by Ar gas and 1.02 g (7 mmol) of m-ethynylbenzoic acid and 5 g (42 mmol) of thionyl chloride were added to the tube and the mixture was stirred at 50° C. for 2 hours and then excess thionyl chloride was removed by distillation under reduced pressure to obtain m-ethynylbenzoyl chloride. To the m-ethynylbenzoyl chloride obtained was added a solution having 1.49 ml (14.4 mmol) of diethylamine dissolved in 7 ml of dichloromethane under ice-cooling and then the resultant mixture was stirred at room temperature for one hour. After completion of the stirring, dichloromethane was removed by distillation under reduced pressure and 35 ml of water was added to the resultant residue. The mixture was extracted with 35 ml of diethyl ether, the ether layer was dried over magnesium sulfate and the solvent was removed by distillation under reduced pressure using an evaporator. The resultant crude reaction product was purified by column chromatography (Hexane/AcOEt=5/1 to 3/1) using silica gel to obtain 1.3 g of 3-ethynyl-N,N-diethylbenzamide which is a desired product as pale yellow liquid. (Yield: 92%)

reactant | m-ethynylbenzoic acid | 7 mmol, 1.02 g | C(#C)C=1C=C(C(=O)O)C=CC1 | C9H6O2
reactant | thionyl chloride | 42 mmol, 5 g | S(=O)(Cl)Cl | Cl2OS
product | m-ethynylbenzoyl chloride | C(#C)C=1C=C(C(=O)Cl)C=CC1 | C9H5ClO
